US05474756
1. 1-Benzyl-3,11-dioxo-1,4,7,10-tetraazacyclododecane
To a solution of 31.2 g dimethyl-N-benzyliminodiacetate in 2.5 l of dry ethanol at reflux under nitrogen was added dropwise 12.8 g of diethylenetriamine in 160 ml of dry ethanol. Reflux was carried out for a total of 137 hours. The solution was evaporated under reduced pressure leaving a yellow paste. Trituration with acetone left 5.2 g of the desired product as a colorless solid.

reactant | dimethyl-N-benzyliminodiacetate | 31.2 g | CC(C(=O)[O-])N(CC1=CC=CC=C1)C(C(=O)[O-])C
reactant | diethylenetriamine | 12.8 g | NCCNCCN | C4H13N3
reactant | acetone | CC(=O)C | C3H6O
solvent | ethanol | 2.5 l | C(C)O | C2H6O
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | 1-Benzyl-3,11-dioxo-1,4,7,10-tetraazacyclododecane | 5.2 g | C(C1=CC=CC=C1)N1CC(NCCNCCNC(C1)=O)=O | C15H22N4O2
